US04293702
A mixture (20.87 g, 0.1 mole) of 2-bromo-4-chlorobenzothiazole and 2,4-dichlorobenzothiazole and 94% sodium hydroxide (4.68 g, 0.11 mole) in 95% ethanol (200 c.c.) was heated under reflux for 1 hour. After cooling, water (250 c.c.) was added to the reaction solution, followed by ice-cooling. The deposited crystals were filtered and washed with water to obtain 19.86 g of 2-ethoxy-4-chlorobenzothiazole. Yield 92.9%, purity 98.9%, m.p. 43°-45° C.

reactant | 2-bromo-4-chlorobenzothiazole | 0.1 mole, 20.87 g | BrC=1SC2=C(N1)C(=CC=C2)Cl | C7H3BrClNS
reactant | 2,4-dichlorobenzothiazole | ClC=1SC2=C(N1)C(=CC=C2)Cl | C7H3Cl2NS
reactant | sodium hydroxide | 0.11 mole, 4.68 g | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-ethoxy-4-chlorobenzothiazole | 19.86 g, Yield 92.9% | C(C)OC=1SC2=C(N1)C(=CC=C2)Cl | C9H8ClNOS
